US06130229
1-(8-Chloro-6,11-dihydro-6-methyl-5H-pyrido[3,2-c][1]benzazepin-11-yl)-4-(4-pyridine-acetyl)piperazine N4-oxide
(8-Chloro-6,11-dihydro-6-methyl-5H-pyrido[3,2-c][1]benzazepin-11-yl)-piperazine (100 mg, 0.305 mmol), 4-pyridine-acetic acid 1-oxide (93.3 mg, 0.61 mmol), EDCl (0.116 g, 0.61 mmol) and HOBT (82.4 mg, 0.61 mmol) were dissolved in DMF (2 ml), and NMM (1 ml) was added. The reaction mixture was stirred at 20° C. for 18 hours and then diluted with water (50 ml), and the aqueous phase was then extracted with EtOAc (about 8 times) until no product was visible in the aqueous layer. The EtOAc phase was then washed with aqueous Na2CO3 and chromatographed on silica gel to afford the title compound (107 mg), m.p. 115-118° C.

reactant | (8-Chloro-6,11-dihydro-6-methyl-5H-pyrido[3,2-c][1]benzazepin-11-yl)-piperazine | 0.305 mmol, 100 mg | ClC1=CC2=C(C(C3=C(CN2C)C=CC=N3)N3CCNCC3)C=C1 | C18H21ClN4
reactant | 4-pyridine-acetic acid 1-oxide | 0.61 mmol, 93.3 mg | [N+]1(=CC=C(C=C1)CC(=O)O)[O-] | C7H7NO3
reactant | EDCl | 0.61 mmol, 0.116 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | 0.61 mmol, 82.4 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMM | 1 ml | CN1CCOCC1 | C5H11NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | water | 50 ml | O | H2O
product | 1-(8-Chloro-6,11-dihydro-6-methyl-5H-pyrido[3,2-c][1]benzazepin-11-yl)-4-(4-pyridine-acetyl)piperazine N4-oxide | 107 mg | ClC1=CC2=C(C(C3=C(CN2C)C=CC=N3)N3CC[N+](CC3)(C(CC3=CC=NC=C3)=O)[O-])C=C1 | C25H26ClN5O2
